US07417060B2
To a solution of (4-bromo-2-cyclohexyloxyphenyl)methanol (5.46 g) in dichloromethane (16 ml) was added thionyl chloride (3.42 g) dropwise at 5° C. under nitrogen, and the mixture was stirred at the same temperature for 1.5 hours. The resulting mixture was poured into water and the aqueous layer was extracted with ethyl acetate. The organic layer was washed successively with saturated aqueous sodium bicarbonate and brine, dried over anhydrous magnesium sulfate and evaporated and dried in vacuo to give 4-bromo-1-chloromethyl-2-cyclohexyloxybenzene (5.59 g).

reactant | (4-bromo-2-cyclohexyloxyphenyl)methanol | 5.46 g | BrC1=CC(=C(C=C1)CO)OC1CCCCC1 | C13H17BrO2
reactant | thionyl chloride | 3.42 g | S(=O)(Cl)Cl | Cl2OS
reactant | water | O | H2O
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
product | 4-bromo-1-chloromethyl-2-cyclohexyloxybenzene | 5.59 g | BrC1=CC(=C(C=C1)CCl)OC1CCCCC1 | C13H16BrClO
